US05656644
4-[4-(4-Fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]benzamidoxime
To a mixture of 2-(4-cyanophenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole (3.0 g, 8.7 mmol) [See Ex. 1 above] and K2CO3 (2.4 g, 17 mmol) in EtOH (120 mL) and H2O (6 mL) was added hydroxylamine hydrochloride (1.2 g, 17 mmol). After heating at reflux for 24 h, the reaction mixture was poured into H2O. The precipitate was collected, washed with H2O and air-dried. The crude product was dissolved in acetone, silica gel was added and the solvent was evaporated. The impregnated silica gel was added to the top of a flash column and the column was eluted with a solvent gradient of 2-10% MeOH/CHCl3 to afford the title compound as a white solid (3.0 g, 91%): ESMS (m/z): 374 (M+ +H).

reactant | 2-(4-cyanophenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole | 8.7 mmol, 3.0 g | C(#N)C1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C21H13FN4
reactant | K2CO3 | 17 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydroxylamine hydrochloride | 17 mmol, 1.2 g | Cl.NO
solvent | EtOH | 120 mL | CCO | C2H6O
solvent | H2O | 6 mL | O | H2O
product | 4-[4-(4-Fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]benzamidoxime | 3.0 g, 91% | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C(N)=NO)C=C1 | C21H16FN5O
